US07326799B2
Synthesis of (2S,3S)-N-[(2S)-1-methoxy-1-oxo-3-phenyl-2-propyl]-3-amino-2-hydroxyheptanamide (Compound of the Formula VII)
To 30 ml of a methanol solution containing 442 mg (1.27 mmol) of (2S,3S)-N-[(2S)-1-methoxy-1-oxo-3-phenyl-2-propyl]-3-azido-2-hydroxyheptanamide was added 45 mg of 5% palladium carbon, and the mixture was stirred under hydrogen atmosphere for 18 hours. Insoluble materials were filtered off, and the filtrate was distilled under reduced pressure to obtain 385 mg (Yield: 94%) of the title compound.

reactant | (2S,3S)-N-[(2S)-1-methoxy-1-oxo-3-phenyl-2-propyl]-3-azido-2-hydroxyheptanamide | 1.27 mmol, 442 mg | COC([C@H](CC1=CC=CC=C1)NC([C@H]([C@H](CCCC)N=[N+]=[N-])O)=O)=O | C17H24N4O4
catalyst | palladium carbon | 45 mg | [C].[Pd]
solvent | methanol | 30 ml | CO | CH4O
product | (2S,3S)-N-[(2S)-1-methoxy-1-oxo-3-phenyl-2-propyl]-3-amino-2-hydroxyheptanamide | 385 mg, Yield: 94% | COC([C@H](CC1=CC=CC=C1)NC([C@H]([C@H](CCCC)N)O)=O)=O | C17H26N2O4
